US06177423B1
2-tert-Butyldimethylsilyoxy-5-nitro-benzo[de]isoquinoline-1,3-dione
O-(tert-Butyldimethyl-silyl)hydroxylamine (1.8 g, 12.3 mmol) was added to a solution of 3-nitro-1,8-naphthalic anhydride (2.0 g, 8.2 mmol) in 50 mL of pyridine. The solution was refluxed for 4 hours and concentrated in vacuo. Purification as described in Example A-1 gave 2.6 g of the title compound.

reactant | O-(tert-Butyldimethyl-silyl)hydroxylamine | 12.3 mmol, 1.8 g | C(C)(C)(C)[Si](ON)(C)C | C6H17NOSi
reactant | 3-nitro-1,8-naphthalic anhydride | 8.2 mmol, 2.0 g | C1=CC2=CC(=CC3=C2C(=C1)C(=O)OC3=O)[N+](=O)[O-] | C12H5NO5
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 2-tert-Butyldimethylsilyoxy-5-nitro-benzo[de]isoquinoline-1,3-dione | 2.6 g | [Si](C)(C)(C(C)(C)C)ON1C(C2=CC=CC=3C2=C(C1=O)C=C(C3)[N+](=O)[O-])=O | C18H20N2O5Si
